US04814329
5-Benzyl-2-(2-hydroxyethylthio)-benzimidazole
5.75 g (24 mmoles) of 5-benzyl-benzimidazoline-2-thione, a solution of 1 g of sodium hydroxide and 8 ml of water, 2 ml (30 mmoles) of 2-chloroethanol and 30 ml of ethanol are refluxed for an hour. The reaction mixture is evaporated and extracted with water and dichloromethane, then the aqueous phase is extracted with dichloromethane. The residue of the combined organic phases is solidified under ether. After filtration and crystallization from ethyl acetate 4.63 g (68.1%) of title product are obtained. M.p.: 108°-109° C.

reactant | 5-benzyl-benzimidazoline-2-thione | 24 mmoles, 5.75 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | water | 8 ml | O | H2O
reactant | 2-chloroethanol | 30 mmoles, 2 ml | ClCCO | C2H5ClO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Benzyl-2-(2-hydroxyethylthio)-benzimidazole | C(C1=CC=CC=C1)C1=CC2=C(N=C(N2)SCCO)C=C1 | C16H16N2OS
